US04362743
A mixture of 1-chloro-4-phenylbutan-4-one (1.83 g, 10 mmol), O-methylhydroxylammonium chloride (1.67 g, 20 mmol), pyridine (1.21 ml, 15 mmol), and ethanol (15 ml) was heated at reflux for 1 hour and then evaporated in vacuo. The residue was partitioned between chloroform and water, and the organic layer was dried (MgSO4) and evaporated in vacuo to give 1-chloro-4-phenylbutan-4-one O-methyloxime (1.78 g, 84%), νmax (neat) 2930, 1445, 1050, 900 cm-1 ; λmax (EtOH) 209 nm (εm 17,200), 253 nm (εm 11,100); δH (CDCl3) 7.3-7.8 (5H, m, aryl), 3.9 (3H, s, OMe), 3.5 (2H, t, H1), 2.9 (2H, t, H3), 2.0 (2H, qn, H2).

reactant | 1-chloro-4-phenylbutan-4-one | 10 mmol, 1.83 g | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | O-methylhydroxylammonium chloride | 20 mmol, 1.67 g | [Cl-].CO[NH3+]
reactant | pyridine | 15 mmol, 1.21 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-chloro-4-phenylbutan-4-one O-methyloxime | 1.78 g, 84% | CON=C(CCCCl)C1=CC=CC=C1 | C11H14ClNO
